US06960589B2
2-{[(2S)-2-methyl-4-pyridin-2-ylpiperazin-1-yl]methyl}-1H-benzimidazole
The product of Example 25B (0.24 g, 1.33 mmol) in N,N-dimethylformamide (10 mL) was treated with 2-chloromethyl-1H-benzimidazole (0.21 g, 1.27 mmol) and cesium carbonate (0.41 mmol, 1.27 mmol) at 23° C. with stirring for 3 hours. The reaction mixture was diluted with ethyl acetate and washed with water (3×) and brine, dried over Na2SO4, filtered, and the filtrate concentrated under reduced pressure. The residue was chromatographed on flash silica gel (1-3% methanol/dichloromethane gradient) to afford 178 mg (46% yield) of the title compound as a light yellow solid. mp 149-151° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.18 (d, J=6 Hz, 3H), 2.38 (m, 1H), 2.53 (m, 1H), 2.76 (dd, J=8, 11.2 Hz, 1H), 2.83 (m, 1H), 3.03 (m, 1H), 3.69 (d, J=14 Hz, 1H), 3.94 (m, 1H), 4.00 (m, 1H), 4.07 (d, J=14 Hz, 1H), 6.60 (dd, J=4.8, 6.4 Hz, 1H), 6.80 (d, J=8.4 Hz, 1H), 7.13 (m, 2H), 7.60 (m, 3H), 8.08 (m, 1H), 12.22 (bs, 1H); MS (ESI) m/e 308 (M+H)+; Anal. calcd for C18H21N5: C, 70.33; H, 6.89; N, 22.78. Found: C, 70.21; H, 6.77; N, 22.62.

reactant | 2-chloromethyl-1H-benzimidazole | 1.27 mmol, 0.21 g | ClCC1=NC2=C(N1)C=CC=C2 | C8H7ClN2
reactant | cesium carbonate | 0.41 mmol | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-{[(2S)-2-methyl-4-pyridin-2-ylpiperazin-1-yl]methyl}-1H-benzimidazole | 178 mg, 46% yield | C[C@@H]1N(CCN(C1)C1=NC=CC=C1)CC1=NC2=C(N1)C=CC=C2 | C18H21N5
